US06797718B2
Under a nitrogen purge, 5% platinum on carbon (2.0 g), toluene (5 mL), and 2-propanol (5 mL) were added to a Parr vessel. A solution of (6-methyl-3-nitro-2-phenoxypyridin-4-yl)-{2-[3-(pyridin-3-yl)propoxy]ethyl}amine (5.71 g, 14.0 mmol) in toluene (45 mL) was then added. The vessel was placed under hydrogen pressure (49 psi, 3.4×105 Pa) for three hours. An analysis by liquid chromatography/mass spectrometry indicated the presence of starting material, and additional 5% platinum on carbon (0.1 g) was added. The reaction was continued for an additional 6 hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure to yield 5.2 g of 6-methyl-2-phenoxy-N4-{2-[3-(pyridin-3-yl)propoxy]ethyl}pyridine-3,4-diamine as a dark oil.

reactant | (6-methyl-3-nitro-2-phenoxypyridin-4-yl)-{2-[3-(pyridin-3-yl)propoxy]ethyl}amine | 14.0 mmol, 5.71 g | CC1=CC(=C(C(=N1)OC1=CC=CC=C1)[N+](=O)[O-])NCCOCCCC=1C=NC=CC1 | C22H24N4O4
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 0.1 g | [Pt] | Pt
product | 6-methyl-2-phenoxy-N4-{2-[3-(pyridin-3-yl)propoxy]ethyl}pyridine-3,4-diamine | 5.2 g | CC1=CC(=C(C(=N1)OC1=CC=CC=C1)N)NCCOCCCC=1C=NC=CC1 | C22H26N4O2
